US04347246
E. N-(2-Acetylthio-3-chlorobenzoyl)-N-cyclopentylglycine t-butyl ester
2-Acetylthio-3-chlorobenzoic acid (11.5 g, 50 mmol) and N-cyclopentylglycine t-butyl ester (10.0 g, 50 mmol) in methylene chloride (350 ml) were cooled to 0°-5° C., and N,N1 -dicyclohexylcarbodiimide (10.3 g, 50 mmol) in methylene chloride (50 ml) was added. The mixture was stirred overnight. The DCC-urea was filtered and washed with CH2Cl2. The filtrate was then washed 2×125 ml 1N HCl, 2×125 ml saturated NaHCO3, 2×125 ml brine, dried (MgSO4), filtered and concentrated to give 20.6 g of an oil. The crude product was used without further purification in the next step.

reactant | 2-Acetylthio-3-chlorobenzoic acid | 50 mmol, 11.5 g | C(C)(=O)SC1=C(C(=O)O)C=CC=C1Cl | C9H7ClO3S
reactant | N-cyclopentylglycine t-butyl ester | 50 mmol, 10.0 g | C(C)(C)(C)OC(CNC1CCCC1)=O | C11H21NO2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Acetylthio-3-chlorobenzoyl)-N-cyclopentylglycine t-butyl ester | 20.6 g | C(C)(C)(C)OC(CN(C1CCCC1)C(C1=C(C(=CC=C1)Cl)SC(C)=O)=O)=O | C20H26ClNO4S
